US07015218B1
1-(4-Chlorophenyl)-N-[3-ethynyl-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide ½ hydrate
A suspension of N-[3-bromo-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide (1 g), bistriphenylphosphinepalladium dichloride (0.38 g), cuprous iodide (0.06 g), trimethylsilylacetylene (0.53 g) and piperidine (50 ml) was refluxed under heating for 15 h. The solvent was evaporated and the residue was purified by silica gel column chromatography (mobile phase: ethyl acetate/hexane). The resulting residue was dissolved in methanol (10 ml) and potassium carbonate (170 mg) was added. The mixture was stirred at room temperature for 1 h. After the reaction, potassium carbonate was filtered off. The filtrate was purified by silica gel column chromatography (mobile phase: chloroform/methanol) and recrystallized from a mixed solvent of chloroform-diisopropyl ether to give the title compound (27 mg), melting point: 203–205° C.

reactant | N-[3-bromo-4-(4-morpholinopiperidin-1-yl)phenyl]-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide | 1 g | BrC=1C=C(C=CC1N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C26H29BrClN5O2
reactant | trimethylsilylacetylene | 0.53 g | C[Si](C)(C)C#C | C5H10Si
solvent | piperidine | 50 ml | N1CCCCC1 | C5H11N
product | 1-(4-Chlorophenyl)-N-[3-ethynyl-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide | 27 mg | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C#C | C28H30ClN5O2
